US05990101
(1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(3-ureidomethylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate (internal salt)
The same procedure as in Example 1 was repeated except that 135 mg of allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate and 87 mg of 3-ureidomethylimidazo[5,1-b]thiazole were used, thereby obtaining 6 mg of the title compound.

reactant | allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate | 135 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CO)C(=O)OCC=C)C1=O | C18H23NO7
reactant | 3-ureidomethylimidazo[5,1-b]thiazole | 87 mg | N(C(=O)N)CC=1N2C(SC1)=CN=C2 | C7H8N4OS
product | (1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(3-ureidomethylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate | 6 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CN2C=[N+]3C(SC=C3CNC(=O)N)=C2)C(=O)[O-])C1=O | C18H21N5O5S
